US06900215B2
4-Fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid was coupled with 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol by the method of Example 78. Purification by chromatography on silica gel eluting with dichloromethane containing 4% methanol and crystallisation from toluene/isohexane gave 2-[3-(3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol: δH (400 MHz, DMSO) 8.96 (1H, d, J 7), 8.72 (1H, d, J 2), 8.17 (1H, dd, J 2 and 1), 7.93 (1H, s), 7.85-7.91 (2H, m), 7.59 (1H, dd, J 10 and 8), 7.40 (1H, d, J 7), 5.51 (1H, s), 1.51 (6H, s); m/z (ES+) 385 (MH+).

reactant | 4-Fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1F)F | C11H7BF3NO2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 2-[3-(3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C20H15F3N4O
